USRE031588
Recrystallization of N-Cyano-N'-{2-[(4-methyl-5-imidazolyl)methylthio]ethyl}-N"-propargylguanidine
N-Cyano-N'-{2-[(4-methyl-5-imidazolyl)methylthio]ethyl}-N"-(4-pentyn-1-yl)guanidine or a nontoxic pharmaceutically acceptable acid addition salt thereof. ⟦11. N-Cyano-N-'-{2-[(4-methyl-5-imidazolyl)methylthio]ethyl}-N"-(2-methyl-3-butyn-2-yl)guanidine or a nontoxic pharmaceutically acceptable acid addition

reactant | N-Cyano-N'-{2-[(4-methyl-5-imidazolyl)methylthio]ethyl}-N"-(4-pentyn-1-yl)guanidine | C(#N)NC(=NCCCC#C)NCCSCC1=C(N=CN1)C | C14H20N6S
reactant | N-Cyano-N-'-{2-[(4-methyl-5-imidazolyl)methylthio]ethyl}-N"-(2-methyl-3-butyn-2-yl)guanidine | C(#N)NC(=NC(C)(C#C)C)NCCSCC1=C(N=CN1)C | C14H20N6S
product | N-Cyano-N'-{2-[(4-methyl-5-imidazolyl)methylthio]ethyl}-N"-propargylguanidine | C(#N)NC(=NCC#C)NCCSCC1=C(N=CN1)C | C12H16N6S
